US06319946B1
[(1S,2R)-3-[(Benzo[1,3]dioxole-5-sulfonyl)-(4-cyano-2,2-dimethyl-butyl)-amino]-1-benzyl-2-(dibenzyloxy-phosphoryloxy)-propyl]-carbamic acid (3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yl ester
A solution of {(1S,2R)-3-[(Benzo[1,3]dioxole-5-sulfonyl)-(4-cyano-2,2-dimethyl-butyl)-amino]-1-benzyl-2-hydroxy-propyl}-carbamic acid (3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yl ester (0.077 g, 0.12 mmol) and 1H-tetrazole (0.012 g, 0.17 mmol) in CH2Cl2 was treated with dibenzyl diisopropylphosphoramidite (0.050 ml, 0.015 mmol) and stirred at ambient temperature under argon. After 2 h 3-chloroperoxybenzoic acid (0.072 g, 0.30 mmol) was added and the reaction mixture stirred an additional 1 h. Solvent was removed in vacuo, the residue taken up in EtOAc, washed with sat. aq. NaHCO3, and brine. The organic phase was dried over MgSO4, filtered and solvent removed in vacuo to give desired product, which was used directly in the next step.

reactant | {(1S,2R)-3-[(Benzo[1,3]dioxole-5-sulfonyl)-(4-cyano-2,2-dimethyl-butyl)-amino]-1-benzyl-2-hydroxy-propyl}-carbamic acid (3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yl ester | 0.12 mmol, 0.077 g | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(N[C@H]([C@@H](CN(CC(CCC#N)(C)C)S(=O)(=O)C2=CC1=C(OCO1)C=C2)O)CC2=CC=CC=C2)=O | C31H39N3O9S
reactant | 1H-tetrazole | 0.17 mmol, 0.012 g | N1N=NN=C1 | CH2N4
reactant | dibenzyl diisopropylphosphoramidite | 0.015 mmol, 0.050 ml | C(C)(C)N(P(OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(C)C | C20H28NO2P
reactant | 3-chloroperoxybenzoic acid | 0.30 mmol, 0.072 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [(1S,2R)-3-[(Benzo[1,3]dioxole-5-sulfonyl)-(4-cyano-2,2-dimethyl-butyl)-amino]-1-benzyl-2-(dibenzyloxy-phosphoryloxy)-propyl]-carbamic acid (3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yl ester | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(N[C@H]([C@@H](CN(CC(CCC#N)(C)C)S(=O)(=O)C2=CC1=C(OCO1)C=C2)OP(=O)(OCC2=CC=CC=C2)OCC2=CC=CC=C2)CC2=CC=CC=C2)=O | C45H52N3O12PS
